US07173031B2
A one liter, 3-neck, round bottom flask as equipped with mechanical stirrer and a cooling bath of ice/acetone. To this was charged 20 g of 6-(1-hydroxy-1-methyl-ethyl)-5-methyl-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one, 235 mL of THF and 47 mL 50% aqueous hydrogen peroxide. An exotherm from −7° C. to 7.3° C. was observed and the mixture became a solution. To this was added a pre-cooled solution of 28.5 mL water and 63 mL methanesulfonic acid over 40 min, keeping the temperature between −5° C. and −0.7° C. The solution was stirred at −2° C. for 95 min until HPLC indicated reaction was complete; reaction mixture was quenched, while keeping it at −2° C., by adding it portion wise to a cooled solution of 28.5 mL water, 89 g NaHSO3 and 128 mL 28% aqueous ammonium hydroxide over 40 min, at 15° C. to 25° C. The mixture was stirred at room temperature for 20 min; pH was 6.80 and a peroxide test was negative. The layers were separated and the aqueous layer was extracted with 100 mL THF. The two organic layers were combined and concentrated, removing 280 mL solvent. To the thick slurry was added 250 mL water and the concentration continued until 88 mL of solvent was removed. The slurry was filtered and the cake was washed with 25 mL water twice and then 25 mL acetonitrile. It was dried by suction on the filter to constant weight to yield 12.51 g of 6-hydroxy-5-methyl-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one, 75.9% yield, 96.5% purity.

reactant | 6-(1-hydroxy-1-methyl-ethyl)-5-methyl-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one | 20 g | OC(C)(C)C=1C(=C2C(NC=NN2C1)=O)C | C10H13N3O2
reactant | THF | 235 mL | C1CCOC1 | C4H8O
reactant | hydrogen peroxide | 47 mL | OO | H2O2
reactant | methanesulfonic acid | 63 mL | CS(=O)(=O)O | CH4O3S
solvent | water | 28.5 mL | O | H2O
product | 6-hydroxy-5-methyl-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one | 12.51 g, 75.9% yield | OC=1C(=C2C(NC=NN2C1)=O)C | C7H7N3O2
